US08097610B2
Preparation of 2-(2,6-dimethyl piperazine-1-yl)-6-trifluoromethyl benzothiazole
To a solution of cis-2,6-dimethyl piperazine (247 mg) in tetrahydrofuran (5 mL) was added n-BuLi (2.67 M hexane solution, 1.62 mL) at −78° C. The mixture was stirred at room temperature for 30 minutes, and trimethyl silyl chloride (0.27 mL) was added thereto. After stirring for 40 minutes, a solution of 2-chloro-6-trifluoromethyl benzothiazole (500 mg) in tetrahydrofuran (2 mL) was added thereto and the mixture was stirred for 2 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and dried over sodium carbonate. The residue was purified by column chromatograph on silica gel to give the title compound (367 mg). Yield: 54%.

reactant | cis-2,6-dimethyl piperazine | 247 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | n-BuLi | 2.67 M, 1.62 mL | [Li]CCCC
reactant | trimethyl silyl chloride | 0.27 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-chloro-6-trifluoromethyl benzothiazole | 500 mg | ClC=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C8H3ClF3NS
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2,6-dimethyl piperazine-1-yl)-6-trifluoromethyl benzothiazole | 367 mg, Yield: 54% | CC1N(C(CNC1)C)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C14H16F3N3S
